US06388084B1
A solution of 4-(5-chloro-1-methyl-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester hydrochloride (89.5 mg, 0.25 mmol), 2-chloro-6-methylbenzoic acid (47 mg, 0.28 mmol), DIEA (175 μL, 1.0 mmol) and HBTU (133 mg, 0.35 mmol) in DMF (3 mL) was stirred at room temperature for 4 hr. The mixture was concentrated, the residue was dissolved in ethyl acetate (15 mL), was washed with 0.5 N HCl (1×5 mL), sat. NaHCO3 (1×5 mL), brine (1×5 mL) and was dried (MgSO4). The residue obtained upon evaporation was chromatographed on 25 g of silica gel, eluting with 3:1 ethyl acetate:hexane to give N-[(2-chloro-6-methylphenyl)carbonyl]-4-(5-chloro-1-methyl-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester (54 mg). LR(+)LSIMS : m/z 962 (2M+NH4), 945 (2M+H), 490 (M+NH4), 473 (M+H (2 Cl)).

reactant | 4-(5-chloro-1-methyl-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester hydrochloride | 0.25 mmol, 89.5 mg | Cl.COC([C@@H](N)CC1=CC=C(C=C1)C=1C(N(C=C(C1)Cl)C)=O)=O
reactant | 2-chloro-6-methylbenzoic acid | 0.28 mmol, 47 mg | ClC1=C(C(=O)O)C(=CC=C1)C | C8H7ClO2
reactant | DIEA | 1.0 mmol, 175 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | HBTU | 0.35 mmol, 133 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | N-[(2-chloro-6-methylphenyl)carbonyl]-4-(5-chloro-1-methyl-2-oxo-3-pyridinyl)-L-phenylalanine methyl ester | 54 mg | COC([C@@H](NC(=O)C1=C(C=CC=C1C)Cl)CC1=CC=C(C=C1)C=1C(N(C=C(C1)Cl)C)=O)=O | C24H22Cl2N2O4
